US07169761B2
A 1 M n-heptane solution of boron tribromide (20 ml) was added dropwise to a solution of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-[(3-methylazulen-1-yl)methyl]phenyl]-D-glucitol (0.76 g) in methylene chloride (20 ml) at −78° C. and the mixture was stirred for 30 minutes. Methylene chloride-toluene (ratio: 2:1, 60 ml) was added to the reaction mixture and methanol (6 ml) was further added to the mixture. The reaction mixture was cooled to room temperature and concentrated to the half amount, followed by adding methanol (25 ml) to the mixture and concentrating. This operation was repeated three times. The residue prepared by the concentration was purified by silica gel column chromatography (chloroform-methanol) to obtain (1S)-1,5-anhydro-1-[3-[(3-methylazulen-1-yl)methyl]phenyl]-D-glucitol (0.068 g).

reactant | n-heptane | 1 M | CCCCCCC | C7H16
reactant | boron tribromide | 20 ml | B(Br)(Br)Br | BBr3
reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-[(3-methylazulen-1-yl)methyl]phenyl]-D-glucitol | 0.76 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC=C1)CC1=CC(=C2C=CC=CC=C12)C | C52H50O5
reactant | Methylene chloride toluene | 60 ml | C(Cl)Cl.C1(=CC=CC=C1)C
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 6 ml | CO | CH4O
product | (1S)-1,5-anhydro-1-[3-[(3-methylazulen-1-yl)methyl]phenyl]-D-glucitol | 0.068 g | CC=1C=C(C2=CC=CC=CC12)CC=1C=C(C=CC1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C24H26O5
